US05015653
To a solution of (S)-5-iodomethyl-1-(phenylmethyl)-2-pyrrolidinone (31.5 g, 0.1 mol) in 250 mL of anhydrous tetrahydrofuran was added a solution of Li2CuCl4 (7.5 mL of a 0.1M solution in tetrahydrofuran; prepared from anhydrous lithium chloride (85 mg) and anhydrous cupric chloride (134.5 mg) in 10 mL of tetrahydrofuran). The solution was cooled to -78° C. and vinyl magnesium chloride (200 mL of 1M solution in tetrahydrofuran) was added over a 25 min period. After stirring for 1 h at -78° C., a second portion of vinyl magnesium chloride (200 mL of 1M solution) was added as before. After stirring for another 1 h, a third portion (200 mL of 1M solution) was added as before, and the mixture was stirred at -78° C. overnight. The cold solution was then poured onto 1.5 kg of ice and was acidified with 100 mL of 6N hydrochloric acid (HCl). The mixture was extracted with methylene chloride, washed with saturated sodium bicarbonate and brine, and dried over MgSO4. The solution was concentrated on a rotary evaporator to give 23.8 g of crude (S)-1-(phenylmethyl)-5-(2-propenyl)-2-pyrrolidinone as a brown oil. The crude product was chromatographed on 700 g of silica gel, eluting with 50% ethyl acetate in hexanes to give 14.2 g (66% yield) of the pure (S)-1-(phenylmethyl)-5-(2-propenyl)-2-pyrrolidinone as a colorless oil. 1H NMR (CDCl3) δ 1.7-2.75 (m, 6 H, CH2 's), 3.51 (m, 1 H, NCH), 4.99 and 5.02 (AB, Jgem =15 Hz, 2 H, CH2Ph), 5.0-5.2 (m, 2 H, vinyl H), 5.4-5.9 (m, 1 H, vinyl H), 7.25-7.40 (m, 5 H, phenyl).

reactant | (S)-5-iodomethyl-1-(phenylmethyl)-2-pyrrolidinone | 0.1 mol, 31.5 g | IC[C@@H]1CCC(N1CC1=CC=CC=C1)=O | C12H14INO
reactant | lithium chloride | 85 mg | [Cl-].[Li+]
reactant | vinyl magnesium chloride | 1M, 200 mL | C(=C)[Mg]Cl
reactant | vinyl magnesium chloride | 1M, 200 mL | C(=C)[Mg]Cl
reactant | hydrochloric acid | 6N, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (S)-1-(phenylmethyl)-5-(2-propenyl)-2-pyrrolidinone | 23.8 g | C1(=CC=CC=C1)CN1C(CC[C@H]1CC=C)=O | C14H17NO
